US08314240B2
To 712 mg of ethyl 5-{[(6-amino-2,3-dihydro-1H-inden-5-yl)oxy]methyl}pyrazine-2-carboxylate trihydrochloride were added 35.6 mL of pyridine and 35.0 mL of a 0.21 M 4-methyl-1,3-thiazole-2-sulfonyl chloride/tert-butyl methyl ether solution, followed by stirring overnight at room temperature. The reaction liquid was concentrated under reduced pressure, and to the obtained residue was added a 5% w/v aqueous citric acid solution, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=100:1 to 95:5) to obtain 256 mg of ethyl 5-{[(6-{[(4-methyl-1,3-thiazol-2-yl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)oxy]methyl}pyrazine-2-carboxylate.

reactant | ethyl 5-{[(6-amino-2,3-dihydro-1H-inden-5-yl)oxy]methyl}pyrazine-2-carboxylate trihydrochloride | 712 mg | Cl.Cl.Cl.NC1=C(C=C2CCCC2=C1)OCC=1N=CC(=NC1)C(=O)OCC
reactant | 4-methyl-1,3-thiazole-2-sulfonyl chloride tert-butyl methyl ether | 0.21 M | CC=1N=C(SC1)S(=O)(=O)Cl.COC(C)(C)C
solvent | pyridine | 35.6 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 5-{[(6-{[(4-methyl-1,3-thiazol-2-yl)sulfonyl]amino}-2,3-dihydro-1H-inden-5-yl)oxy]methyl}pyrazine-2-carboxylate | 256 mg | CC=1N=C(SC1)S(=O)(=O)NC1=C(C=C2CCCC2=C1)OCC=1N=CC(=NC1)C(=O)OCC | C21H22N4O5S2
